US08466114B2
To a stirred solution of 1-[6-(2-bromo-5-iodo-benzyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone (12.0 g, 22.81 mmol) in methanol (100 mL) and THF (20 mL) was added sodium borohydride (1.73 g, 45.62 mmol) portion wise and the reaction mixture was stirred at room temperature for 1 h. The excess of sodium borohydride was quenched by adding 1N HCl. Methanol was evaporated and the residue was partitioned between dichloromethane and water. The organic layer was washed with water, and brine, then concentrated to furnish the crude product which was purified by silica gel column chromatography to provide 6-(2-bromo-5-iodo-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine (9.45 g).

reactant | 1-[6-(2-bromo-5-iodo-benzyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone | 22.81 mmol, 12.0 g | BrC1=C(CC=2C=CC3=C(N(CCO3)C(C(F)(F)F)=O)C2)C=C(C=C1)I | C17H12BrF3INO2
reactant | sodium borohydride | 45.62 mmol, 1.73 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(2-bromo-5-iodo-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 9.45 g | BrC1=C(CC=2C=CC3=C(NCCO3)C2)C=C(C=C1)I | C15H13BrINO
